Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo male with no significant PMhx presented to ED with 4 days 
of progressive chest and right flank pain with a pleuritic 
component.  Chest CT showed a large saddle Right pulmonary 
embolus and the patient was placed on heparin.  He denied any 
recent long travel or stasis periods, prior clots, family 
history of clots or bleeding.  No testicular lumps, weight 
changes, lymphadenopathy.
 
Past Medical History:
none
no surgical history
 
Social History:
___
Family History:
no history of cancer or clots
 
Physical Exam:
Afebrile, VSS
NAD, A&Ox3
PERRL, EOMI
CV: ___ s1s2 no murmur, no heave
Pulm:  decreased breath sounds at right base
GI:  soft/NT/ND +BS
Ext: no calf tenderness, no erythema or swelling
 
Pertinent Results:
___ 03:25PM   PTT-58.9*
___ 01:10PM   HOMOCYSTN-8.6
___ 09:15AM   PTT-86.7*
___ 06:57AM   ___ PTT-150* ___
___ 03:00AM   D-DIMER-2485*
___ 01:25AM   GLUCOSE-103 UREA N-13 CREAT-1.1 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-27 ANION GAP-12
___ 01:25AM   ALT(SGPT)-32 AST(SGOT)-38 ALK PHOS-110 TOT 
BILI-0.3
___ 01:25AM   IRON-30* CHOLEST-147
___ 01:25AM   calTIBC-365 FERRITIN-102 TRF-281
___ 01:25AM   TRIGLYCER-92 HDL CHOL-70 CHOL/HDL-2.1 
LDL(CALC)-59

CTA CHEST W&W/O C&RECONS, NON-CORONARY  ___ 5:02 AM

CTA CHEST W&W/O C&RECONS, NON-; CT ABD W&W/O C

Reason: EVAL FOR PE/STONE
Field of view: 36 Contrast: OPTIRAY

UNDERLYING MEDICAL CONDITION:
___ year old man with left chest pain, worse with inspiration 
REASON FOR THIS EXAMINATION:
eval for pe 
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: Left chest pain. Evaluate for pulmonary embolism or 
renal stone.

TECHNIQUE: Noncontrast MDCT through the abdomen and pelvis 
followed by Contrast-enhanced MDCT of the chest, abdomen and 
pelvis. Multiplanar reformations were provided.

COMPARISON: None.

CT CHEST WITH CONTRAST: There is a saddle embolus at the 
bifurcation of the right middle and right lower lobe pulmonary 
artery with extension of clot distally into the segmental and 
subsegmental branches. There may be left sided pulmonary embolus 
in the left lower lobe superior segmental branch, seen only on a 
single image (S3a:I22). The heart and great vessels of the 
mediastinum are otherwise unremarkable. There is residual thymic 
tissue. There is no pathologic adenopathy. The lungs are clear 
asiode from minimal atelectasis at the right lung base. There is 
no left pleural effusion. A tiny right pleural effusion is 
noted. The airways are patent to the subsegmental level. 
CT ABDOMEN WITH CONTRAST: The liver, gallbladder, pancreas, 
spleen, adrenal glands, kidneys and small bowel loops are 
normal. There is no free air, free fluid or pathologic 
adenopathy. Multiple small mesenteric lymph nodes do not meet 
pathologic criteria.

CT PELVIS WITH CONTRAST: The rectum, sigmoid, large bowel, 
prostate, seminal vesicles, bladder and pelvic small bowel loops 
are normal. There is no free air, free fluid or pathologic 
adenopathy. 

BONE WINDOWS: The osseous structures are normal. Note is made of 
a bone island in the left acetabular roof.

IMPRESSION: 

1. Right interlobar (saddle) PE extending into right middle and 
lower ___ branches. Probable small left lower lobe segmental 
PE. Tiny right pleural effusion, minimal right basilar 
atelectasis.

2. No acute intra-abdominal process.

___ bilateral ___ venous doppler U/S
IMPRESSION: No evidence of DVT in the bilateral lower 
extremities.

CHEST TWO VIEWS ___

CLINICAL INFORMATION: Alcohol withdrawal, fever, question 
pneumonia.

No prior chest x-rays for comparison.

At the right lung base, there is focal consolidation. There is 
also a focal opacity within the right middle lobe. These 
findings would be consistent with either pneumonia or 
aspiration. There is also a small right pleural effusion. The 
left lung is relatively clear. Cardiomediastinal silhouette is 
unremarkable. Visualized osseous structures are unremarkable.

IMPRESSION:
1. Focal infiltrate/consolidation and right middle lobe and 
lower lobe consistent with aspiration versus pneumonia.
2. Small right pleural effusion.

 
Brief Hospital Course:
This ___ yo male with no significant PMHx was admitted for right 
sided saddle PE.

1.  PE:  the patient was placed on heparin gtt after receiving a 
bolus and subsequently started on coumadin therapy.  His 
pleuritic chest pain was managed initially with IV dilaudid, 
then transitioned to oral analgesics.  The patient was deemed a 
poor candidate for lovenox bridge while on coumadin because of 
difficulty understanding the seriousness of his diagnosis.  A 
hypercoaguable work up for the etiology for his PE was 
initiated, given no instigating event or family history.  The 
patient had a negative testicular exam and no evidence of any 
LAD on a pelvic CT scan performed on admission.  His labs 
(factor V leiden, prothrombin mutation) were pending on 
discharge.  His INR was 2.0 on ___ and 2.3 on ___.  A nursing 
appointment was arranged at ___ for INR on ___.

 
Medications on Admission:
none
 
Discharge Medications:
1. Percocet ___ mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pulmonary embolus

 
Discharge Condition:
stable, on no supplemental oxygen

 
Discharge Instructions:
You were admitted with chest pain and found to have a pulmonary 
embolus (a large blood clot in your lung ateries).  You will 
need to continue on coumadin for at least 6 months.  
 
Followup Instructions:
___